US04507498
A suspension of 1.94 g of [4-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid ethyl ester in 5 ml of ethanol and 20 ml of 1.0N sodium hydroxide was refluxed for 1 hour. After cooling, ice water was added and the mixture was acidified. The precipitate was extracted with methylene chloride. The dried, over magnesium sulfate, extract was concentrated in vacuo to an oil. Crystallization from ether-hexane gave 1.29 g, mp 124°-125°, (71% yield) of [4-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid.

reactant | [4-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid ethyl ester | 1.94 g | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C29H38O8
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1.0N, 20 ml | [OH-].[Na+]
product | [4-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]acetic acid | 71% yield | C(C)(=O)C1=C(C(=C(OCC(=O)O)C=C1)CCC)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC | C27H34O8
